* Large test circuit with 50 nodes, 49 resistors, and 10 voltage sources
V1 1 0 5
V2 6 0 3
V3 11 0 2
V4 16 0 1
V5 21 0 1
V6 26 0 2
V7 31 0 3
V8 36 0 4
V9 41 0 5
V10 46 0 6
R1 1 2 100
R2 2 3 200
R3 3 4 300
R4 4 5 400
R5 5 6 500
R6 6 7 600
R7 7 8 700
R8 8 9 800
R9 9 10 900
R10 10 11 1000
R11 11 12 1100
R12 12 13 1200
R13 13 14 1300
R14 14 15 1400
R15 15 16 1500
R16 16 17 1600
R17 17 18 1700
R18 18 19 1800
R19 19 20 1900
R20 20 21 2000
R21 21 22 2100
R22 22 23 2200
R23 23 24 2300
R24 24 25 2400
R25 25 26 2500
R26 26 27 2600
R27 27 28 2700
R28 28 29 2800
R29 29 30 2900
R30 30 31 3000
R31 31 32 3100
R32 32 33 3200
R33 33 34 3300
R34 34 35 3400
R35 35 36 3500
R36 36 37 3600
R37 37 38 3700
R38 38 39 3800
R39 39 40 3900
R40 40 41 4000
R41 41 42 4100
R42 42 43 4200
R43 43 44 4300
R44 44 45 4400
R45 45 46 4500
R46 46 47 4600
R47 47 48 4700
R48 48 49 4800
R49 49 50 4900